US08053431B2
3-Amino-4-(2-hydroxy-ethylamino)-benzoic acid methyl ester (2.6 g, 12.0 mmol) was dissolved in formic acid (20 mL). The solution was heated at 45° C. for 1 h. After checking the completion of reaction by TLC, formic acid was evaporated at <40° C. under reduced pressure and the resulting solid was recrystallized from EtOAc. The above solid was dissolved in 3N HCl, stirred at ambient temperature for 1 h, basified back with saturated sodium bicarbonate solution and extracted with EtOAc. The organic layer was evaporated to give 2.1 g (78%) of 1-(2-hydroxy-ethyl)-1H-benzoimidazole-5-carboxylic acid methyl ester. MS-ESI m/z 221 (M+1): 1H NMR (300 MHz, DMSO-d6) δ 3.7 (q, 2H), 3.9 (s, 3H), 4.3 (t, 3H), 5.0 (t, 1H), 7.7 (d, 1H), 7.9 (dd, 1H), 8.25 (s, 1H), 8.35 (s, 1H)

reactant | 3-Amino-4-(2-hydroxy-ethylamino)-benzoic acid methyl ester | 12.0 mmol, 2.6 g | COC(C1=CC(=C(C=C1)NCCO)N)=O | C10H14N2O3
reactant | formic acid | 20 mL | C(=O)O | CH2O2
product | 1-(2-hydroxy-ethyl)-1H-benzoimidazole-5-carboxylic acid methyl ester | 2.1 g, 78% | COC(=O)C1=CC2=C(N(C=N2)CCO)C=C1 | C11H12N2O3
